US04273782
3-(1-Imidazolylmethyl)indole (1.97 g) was dissolved in dry N,N-dimethylformamide (50 ml) and the solution was cooled to °C. Sodium hydride (0.55 g of 50% dispersion in oil) was added portionwise with stirring and the mixture was stirred at 0° C. for 30 minutes. A solution of 3-chloropropionanilide (1.83 g) in dry N,N-dimethylformamide was added dropwise with stirring and the resulting mixture was stirred at 0° C. for 2 hours followed by 18 hours at room temperature. The mixture was evaporated and water was added to the residue. The solid product was filtered off, washed with chloroform to remove impurity and crystallised from methanol to give 1-[2-(N-phenylcarbamoyl)ethyl]-3-(1-imidazolylmethyl)indole (1.20 g), m.p. 254°-255° C. Found: C, 73.14; H, 5.82; N, 15.88. C21H20N4O requires: C, 73.23; H, 5.85; N, 16.27%.

reactant | 3-(1-Imidazolylmethyl)indole | 1.97 g | N1C(=NC=C1)CC1=CNC2=CC=CC=C12 | C12H11N3
reactant | Sodium hydride | 0.55 g | [H-].[Na+]
reactant | 3-chloropropionanilide | 1.83 g | ClCCC(=O)NC1=CC=CC=C1 | C9H10ClNO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-[2-(N-phenylcarbamoyl)ethyl]-3-(1-imidazolylmethyl)indole | 1.20 g | C1(=CC=CC=C1)NC(=O)CCN1C=C(C2=CC=CC=C12)CC=1NC=CN1 | C21H20N4O
